US07425634B2
(5f) 2-(((3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methyl)thio)-1H-benzimidazole
To a THF (7 ml) solution of the (3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methanol (312 mg, 1.00 mmol) obtained in the step (5e), triethylamine (0.30 ml, 2.15 mmol) was added at room temperature, and then methanesulfonyl chloride (0.12 ml, 1.55 mmol) was added under cooling in an ice-salt bath and stirred for 30 minutes in the same conditions. To the reaction mixture, a saturated aqueous solution of sodium hydrogen carbonate and ethyl acetate were added. The aqueous layer was extracted with ethyl acetate. Organic layers were combined, washed with water and a saline solution, dried over anhydrous sodium sulfate, and concentrated. The obtained residue was dissolved in ethanol (6 ml). To the resultant solution, 2-mercaptobenzimidazole (150 mg, 1.00 mmol) and sodium hydroxide (160 mg, 4.00 mmol) were added and stirred at room temperature for 16.5 hours. After the reaction mixture was concentrated, NH silica gel was added to the residue and the mixture was dried. The obtained crude product was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate=1/0, 1/1-0/1 gradient) and desired fractions were concentrated to obtain the title compound (377 mg, 85.0% yield) as a white foam.

reactant | (3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methanol | 1.00 mmol, 312 mg | CC=1C(=NC=CC1OCC1(OCC2(OCCO2)CO1)C)CO | C15H21NO6
reactant | triethylamine | 2.15 mmol, 0.30 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.55 mmol, 0.12 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 2-mercaptobenzimidazole | 1.00 mmol, 150 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | sodium hydroxide | 4.00 mmol, 160 mg | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 2-(((3-methyl-4-((8-methyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)methoxy)pyridin-2-yl)methyl)thio)-1H-benzimidazole | 377 mg, 85.0% yield | CC=1C(=NC=CC1OCC1(OCC2(OCCO2)CO1)C)CSC1=NC2=C(N1)C=CC=C2 | C22H25N3O5S
